Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
brimonidine
 
Attending: ___.
 
Chief Complaint:
red neck incision
 
Major Surgical or Invasive Procedure:
___
Incision and drainage of a cervical mediastinoscopy wound, 
evacuation of deep cervical abscess

___
Right subclavian portacath

 
History of Present Illness:
Ms. ___ is a very pleasant ___ year old female who
underwent mediastinoscopy and aspiration of chest wall mass at
right breast ___. Pathology was consistent with nodular
sclerosing hodgkins disease. A cavity was encouterered
inside of the mediastinal mass with 20cc of purulent fluid.
Cultures from the fluid were negative.

At her first follow up appointment ___, she was found to 
have
some redness at the mediastinoscopy incision site which was
concerning for cellulitis. She was given cephalexin 500 bid x 7
days, with follow up in clinic in 1 week, at which the erythema
and induration had not changed appreciably. 

5 days ago, she noted that thick pus began to leak from a new
opening in the wound. Shortly thereafter, a second opening from
the wound developed which began draining thinner yellow fluid.
The first opening has closed, but she continues to have leakage
of yellow fluid from the second opening which has required two
dressing changes per day for the past 4 days. She denies fevers
or pain at the site, and reports that the induration and 
erythema
have improved. She presents now for surgical I&D.

 
Past Medical History:
• DM (diabetes mellitus), type 2, uncontrolled 250.02  
• HYPERTENSION - ESSENTIAL, UNSPEC 401.9  
• HYPERCHOLESTEROLEMIA 272.0  
• TINEA PEDIS 110.4  
• ENROLLED - CDM TAKE CHARGE (NOT DX, FOR PROB LIST ONLY) 
PRGEN11  
• OBESITY - MORBID ___  
• Moderate or severe vision impairment, both eyes 369.20  
• DM w/o complication type II, uncontrolled 250.02  
• Primary open angle glaucoma 365.11, 365.70  
• Severe stage glaucoma 365.73  
• Dry eye syndrome 375.15  
• Mediastinal mass 786.6  

 
Social History:
___
Family History:
Mother: lymphoma @ age ___ (aggressive, died quickly)
Father: colon cancer & age ___
Siblings: brother lymphoma @ age ___ (s/p XRT, alive & well),
sister cervical cancer
___
Other

 
Physical Exam:
BP: 120/53. Heart Rate: 87. Weight: 194.9. Height: 57. BMI: 
42.2.
Temperature: 98.0. Resp. Rate: 16. Pain Score: 5. O2 
Saturation%:
100. Distress Score: 5.

Gen: NAD
Neck: There is a small opening in the wound which is actively
draining thin yellow fluid. Her induration and erythema are
improved from last week.
Chest: CTAB. Tenderness to palpation at the upper inner quadrant
of the right breast.
Cor: RRR
Abd: Soft, non-tender, non-distended
Extrem: no c/c/e

 
Pertinent Results:
___ CXR:
Lungs appear well inflated without evidence of focal airspace 
consolidation, pleural effusions or pneumothorax.  There is 
paratracheal and mediastinal opacity consistent with known 
lymphoma.  There is fullness of the right hilar contour which 
more likely is related to the subpectoral mass seen on the CT 
dated ___.  Heart is within normal limits of size given 
portable technique.  No acute bony abnormality is appreciated. 
  
Time Taken Not Noted     Log-In Date/Time: ___ 3:59 pm
      SWAB      CERVICAL WOUND. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent an incision and drainage of a 
cervical mediastinoscopy wound with evacuation of deep cervical 
abscess. She tolerated the procedure well and returned to the 
PACU in stable condition.  She maintained stable hemodynamics 
and her pain was minimal.

Following transfer to the Surgical floor her wound was observed 
frequently and had some surrounding erythema noted without 
cellulitis.  She remained afebrile but her blood sugars were not 
controlled which seems to be a pre op problem as well. Her WBC 
remained elevated despite Vancomycin therapy but her intraop 
cultures were negative thus far.

She returned to the OR on ___ for placement of her portacath 
via the right subclavian.  She tolerated that procedure well and 
this will eventually be used for her chemotherapy.  The 
portacath will be managed by the ___ Oncology 
Department.

Her blood sugars were not controlled and she was encouraged to 
check them QID and use regular sliding scal coverage along with 
her Lantus to maintain better control.  She will call her PCP if 
there's no improvement.  She was discharged home after her 
portacath placement on a seven day course of Keflex and she'll 
follow up in the Thoracic Clinic in 2 weeks.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Lorazepam 0.5 mg PO Q8H:PRN anxiety/sleep 
3. Atenolol 25 mg PO DAILY 
4. Simvastatin 20 mg PO DAILY 
5. travoprost 0.004 % ophthalmic qAM 
6. albuterol sulfate 90 mcg/actuation inhalation q4h wheezing 
7. Doxycycline Hyclate 75 mg PO DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
10. Glargine 20 Units Bedtime
11. GlyBURIDE 10 mg PO BID 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Doxycycline Hyclate 75 mg PO DAILY 
3. GlyBURIDE 10 mg PO BID 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Lisinopril 40 mg PO DAILY 
6. Lorazepam 0.5 mg PO Q8H:PRN anxiety/sleep 
7. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
8. Simvastatin 20 mg PO DAILY 
9. travoprost 0.004 % ophthalmic qAM 
10. Acetaminophen 1000 mg PO Q6H:PRN pain 
11. albuterol sulfate 90 mcg/actuation inhalation q4h wheezing 
12. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
13. Cephalexin 500 mg PO Q6H 
thru ___ 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*28 Capsule Refills:*0
14. Glargine 20 Units Bedtime
Insulin SC Sliding Scale using REG Insulin

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Infection following cervical mediastinoscopy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for surgical drainage of 
your neck wound incision and you have recovered well.  Your port 
was also placed for chenotherapy.
* Check your incision a few times a day and look for any 
increased redness or drainage.  If you develop any increased 
redness, drainage, fevers > 100 or chiils please call Dr. 
___ at ___.
* Continue to follow your blood sugars as elevated sugars can be 
a sign of infection.
* If you have any pain from the incision, try Tylenol first.
* Continue to eat well and stay well hydrated.
* You may shower and get your incision wet, just don't rub it 
vigorously.
* The Oncology Department at ___ will flush your 
port  as needed based on your chemo treatments and they are 
aware that the line was placed.
* If you have any questions or concerns please call 
___.
 
Followup Instructions:
___